US04017492
In the manner given in Example 9, 7-chloro-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine can be stirred with 2-oxo-4-pentenoic acid at room temperature to give 7-chloro-2-[(1-carboxy-3-butenylidene)-hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2)Cl)C1 | C15H12Cl2N4
reactant | 2-oxo-4-pentenoic acid | O=C(C(=O)O)CC=C | C5H6O3
product | 7-chloro-2-[(1-carboxy-3-butenylidene)-hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CC=C)C(=O)O)C2=C(C=CC=C2)Cl)C1 | C20H16Cl2N4O2
